US08748624B2
STEP B: methyl 3-(5-(5-chloro-2-formylphenyl)picolinamido)propanoate
Methyl 3-(5-bromopicolinamido)propanoate (2.0 g, 7.0 mmol), (5-chloro-2-formylphenyl)boronic acid (1.4 g, 7.7 mmol), Pd(dppf)Cl2 (572 mg, 0.7 mmol), and K2CO3 (2.1 g, 15.4 mmol) were dissolved in 1,4-dioxane (24 mL) and water (6 mL) and heated to 90° C. After 3 h the resulting mixture was poured into EtOAc/H2O (30 mL/30 mL) and the layers were separated. The aqueous layer was extracted with EtOAc and the combined organic layers were dried (Na2SO4), concentrated, and purified via column chromatography to yield the title compound.

reactant | Methyl 3-(5-bromopicolinamido)propanoate | 7.0 mmol, 2.0 g | BrC=1C=CC(=NC1)C(=O)NCCC(=O)OC | C10H11BrN2O3
reactant | (5-chloro-2-formylphenyl)boronic acid | 7.7 mmol, 1.4 g | ClC=1C=CC(=C(C1)B(O)O)C=O | C7H6BClO3
reactant | K2CO3 | 15.4 mmol, 2.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 6 mL | O | H2O
solvent | 1,4-dioxane | 24 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.7 mmol, 572 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | EtOAc H2O | 30 mL | CCOC(=O)C.O
product | methyl 3-(5-(5-chloro-2-formylphenyl)picolinamido)propanoate | ClC=1C=CC(=C(C1)C=1C=CC(=NC1)C(=O)NCCC(=O)OC)C=O | C17H15ClN2O4
